US08022062B2
(±)-7-Chloro-6-(tetrahydrofuran-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 330, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-(bromomethyl)tetrahydrofuran to give, after deprotection by the General Procedure 1-4, the title compound as white crystals. MS (APCI+) m/z: 298 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-(bromomethyl)tetrahydrofuran | BrCC1OCCC1 | C5H9BrO
product | (±)-7-Chloro-6-(tetrahydrofuran-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1OCCC1 | InChI=1S/C15H20ClNOS.ClH/c16-14-4-3-11-5-7-17-8-6-13(11)15(14)19-10-12-2-1-9-18-12;/h3-4,12,17H,1-2,5-10H2;1H
